US07288559B2
Step A. (±)-Spiro[imidazolidine-4,2′-indane]-2,5-dione
A stirred mixture of 2-indanone (3.0 g, 22.6 mmol), sodium cyanide (3.3 g, 67.3 mmol), and ammonium carbonate (22 g, 228 mol) in H2O (50 mL) and EtOH (50 mL) was heated to 70° C. for 3 h, then allowed to cool to ambient temperature. The precipitate was collected by filtration and washed with H2O (5×100 mL). Drying in vacuo afforded the title compound as a gray-brown solid. MS: m/z=202 (M+1).

reactant | 2-indanone | 22.6 mmol, 3.0 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | sodium cyanide | 67.3 mmol, 3.3 g | [C-]#N.[Na+]
reactant | ammonium carbonate | 228 mol, 22 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | H2O | 50 mL | O | H2O
solvent | EtOH | 50 mL | CCO | C2H6O
product | (±)-Spiro[imidazolidine-4,2′-indane]-2,5-dione | C1C2(CC3=CC=CC=C13)NC(NC2=O)=O | C11H10N2O2
